US04060603
i. Benzyloxycarbonyl-L-pyroglutamyl-Nα -methyl-L-histidine
Nα -Methyl-L-histidine (428 mg) and sodium carbonate (288 mg) was dissolved in water (5 ml) and the solution adjusted to pH 8.5. Benzyloxycarbonyl-L-pyroglutamic acid N-hydroxsuccinimido ester (933 mg) in dioxane (5 ml) was added and the solution stirred for 15 hrs at 22°. The solution was evaporated and the residue chromatographed on a silica gel column (15 × 330 mm) using isopropanol-ethyl acetate - acetic acid - water (3 : 1 : 1 : 1) as eluant to give, after evaporation of the appropriate fraction, the product (615 mg) as a white solid m.p. 192°-195° RF 3A 0.21 RF 3B 0.69 [α]D22 - 1.3° (c = 1, dimethylformamide)

reactant | Nα -Methyl-L-histidine | 428 mg | CN[C@@H](CC1=CNC=N1)C(=O)O | C7H11N3O2
reactant | sodium carbonate | 288 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | Benzyloxycarbonyl-L-pyroglutamic acid | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1=O)C(=O)O | C13H13NO5
solvent | water | 5 ml | O | H2O
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | Benzyloxycarbonyl-L-pyroglutamyl-Nα -methyl-L-histidine | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1=O)C(=O)N([C@@H](CC1=CNC=N1)C(=O)O)C | C20H22N4O6
